### PR TITLE
[Merged by Bors] - feat(Probability/Decision): Bayes estimators

### PR DESCRIPTION
**Pull request by RemyDegenne**
This PR adds the concept of a Bayes estimator for an estimation problem: an estimator that attains the Bayes risk.
We can get such estimators by taking an argmin of an integral involving a posterior kernel, when a measurable version of that argmin exists.

Co-authored-by: Lorenzo Luccioli @LorenzoLuccioli

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 1]
```diff
@@ -0,0 +1,169 @@
...
+namespace ProbabilityTheory
+
+variable {Θ 𝓧 𝓨 : Type*} {mΘ : MeasurableSpace Θ} {m𝓧 : MeasurableSpace 𝓧} {m𝓨 : MeasurableSpace 𝓨}
+  {ℓ : Θ → 𝓨 → ℝ≥0∞} {P : Kernel Θ 𝓧} {κ : Kernel 𝓧 𝓨} {π : Measure Θ}
+
+section Posterior
+
+variable [StandardBorelSpace Θ] [Nonempty Θ]
+
+/-- The Bayesian risk of an estimator `κ` with respect to a prior `π` can be expressed as
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]:
```suggestion
/-- The average risk of an estimator `κ` with respect to a prior `π` can be expressed as
```

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 2]
```diff
@@ -0,0 +1,169 @@
...
+/-- An argmin estimator is a Bayes estimator: that is, it minimizes the Bayesian risk. -/
+lemma IsArgminEstimator.isBayesEstimator (hf : IsArgminEstimator ℓ P π f)
+    (hl : Measurable (Function.uncurry ℓ)) :
+    IsBayesEstimator ℓ P hf.kernel π := by
+  refine le_antisymm ?_ (bayesRisk_le_avgRisk _ _ _ _)
+  rw [hf.avgRisk_eq_lintegral_iInf hl]
+  exact lintegral_iInf_posterior_le_bayesRisk hl _ _
+
+/-- The estimation problem admits an argmin estimator with respect to the prior `π`.
+
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]:
```suggestion
```

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 3]
```diff
@@ -0,0 +1,169 @@
...
+That is, we can choose the argmin of the posterior expected loss in a measurable way. -/
+class HasArgminEstimator {𝓨 : Type*} [MeasurableSpace 𝓨]
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]: Does this have to be a `class`?

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 4]
```diff
@@ -0,0 +1,169 @@
...
+    (ℓ : Θ → 𝓨 → ℝ≥0∞) (P : Kernel Θ 𝓧) [IsFiniteKernel P] (π : Measure Θ) [IsFiniteMeasure π] :
+    Prop where
+  exists_isArgminEstimator : ∃ f : 𝓧 → 𝓨, IsArgminEstimator ℓ P π f
+
+/-- An estimator for an estimation problem that for `(P ∘ₘ π)`-almost every `x` is of
+the form `x ↦ argmin_y P†π(x)[θ ↦ ℓ θ y]`. -/
+noncomputable
+def argminEstimator {𝓨 : Type*} [MeasurableSpace 𝓨]
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]: I think this should be in the `HasArgminEstimator` namespace.

File: Mathlib/Probability/Decision/BayesEstimator.lean (hunk 3 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Decision/BayesEstimator.lean]: Changed to a structure.

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+variable [StandardBorelSpace Θ] [Nonempty Θ]
+
+/-- The average risk of an estimator `κ` with respect to a prior `π` can be expressed as
+an integral in the following way: `R_π(κ) = ((P†π × κ) ∘ P ∘ π)[(θ, y) ↦ ℓ θ y]`. -/
+lemma avgRisk_eq_lintegral_posterior_prod
+    (hl : Measurable (Function.uncurry ℓ)) (P : Kernel Θ 𝓧) [IsFiniteKernel P]
+    (κ : Kernel 𝓧 𝓨) [IsSFiniteKernel κ] (π : Measure Θ) [IsFiniteMeasure π] :
+    avgRisk ℓ P κ π = ∫⁻ θy, ℓ θy.1 θy.2 ∂(((P†π) ×ₖ κ) ∘ₘ (P ∘ₘ π)) := by
+  simp only [avgRisk]
+  rw [← Measure.lintegral_compProd (f := fun θy ↦ ℓ θy.1 θy.2) (by fun_prop)]
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]:
```suggestion
  simp only [avgRisk]
  rw [avgRisk, ← Measure.lintegral_compProd (f := fun θy ↦ ℓ θy.1 θy.2) (by fun_prop)]
```

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 6]
```diff
@@ -0,0 +1,170 @@
...
+the form `x ↦ argmin_y P†π(x)[θ ↦ ℓ θ y]`. -/
+structure IsArgminEstimator {𝓨 : Type*} [MeasurableSpace 𝓨]
+    (ℓ : Θ → 𝓨 → ℝ≥0∞) (P : Kernel Θ 𝓧) [IsFiniteKernel P]
+    (π : Measure Θ) [IsFiniteMeasure π] (f : 𝓧 → 𝓨) : Prop where
+  measurable : Measurable f
+  property : ∀ᵐ x ∂(P ∘ₘ π), ∫⁻ θ, ℓ θ (f x) ∂(P†π) x = ⨅ y, ∫⁻ θ, ℓ θ y ∂(P†π) x
+
+/-- Given an argmin estimator `f`, we can define a deterministic kernel. -/
+noncomputable
+abbrev IsArgminEstimator.kernel (h : IsArgminEstimator ℓ P π f) : Kernel 𝓧 𝓨 :=
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]: Can you make it `protected` please?

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 7]
```diff
@@ -0,0 +1,170 @@
...
+
+/-- The risk of an argmin estimator is the risk lower bound
+`∫⁻ x, ⨅ z, ∫⁻ θ, ℓ θ z ∂(P†π) x ∂(P ∘ₘ π)`. -/
+lemma IsArgminEstimator.avgRisk_eq_lintegral_iInf (hf : IsArgminEstimator ℓ P π f)
+    (hl : Measurable (Function.uncurry ℓ)) :
+    avgRisk ℓ P hf.kernel π = ∫⁻ x, ⨅ y, ∫⁻ θ, ℓ θ y ∂(P†π) x ∂(P ∘ₘ π) := by
+  rw [avgRisk_eq_lintegral_lintegral_lintegral hl]
+  refine lintegral_congr_ae ?_
+  filter_upwards [hf.property] with x hx
+  rwa [Kernel.deterministic_apply, lintegral_dirac' _ (by fun_prop)]
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]:
```suggestion
  rwa [Kernel.lintegral_deterministic' _ (by fun_prop)]
```

File: Mathlib/Probability/Decision/BayesEstimator.lean [hunk 8]
```diff
@@ -0,0 +1,170 @@
...
+def argminEstimator (h : HasArgminEstimator ℓ P π) : 𝓧 → 𝓨 :=
+  h.exists_isArgminEstimator.choose
+
+lemma isArgminEstimator_argminEstimator (h : HasArgminEstimator ℓ P π) :
+    IsArgminEstimator ℓ P π h.argminEstimator :=
+  h.exists_isArgminEstimator.choose_spec
+
+/-- If the estimation problem admits an argmin estimator, then the Bayesian risk
+attains the risk lower bound `∫⁻ x, ⨅ y, ∫⁻ θ, ℓ θ y ∂((P†π) x) ∂(P ∘ₘ π)`. -/
+lemma bayesRisk_eq_of_hasArgminEstimator
```
Comment (EtienneC30) [inline Mathlib/Probability/Decision/BayesEstimator.lean]: Since you're in the namespace:
```suggestion
lemma bayesRisk_eq
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate

**Review by ocfnash — APPROVED** [review]
bors merge
